US04956359
1-Propyl-4-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]piperazine fumarate [1:1]
A mixture of 2.8 g (0.01 mole) of 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and 4.2 g (0.03 mole) of potassium carbonate in 25 ml of tetrahydrofuran was stirred for 10 min, then treated with 2.9 g (0.01 mole) of 1-propylpiperazine dihydrobromide in small portions. After 30 min, a few pieces of ice were added. After stirring for 17 hr, the reaction was diluted with 200 ml of water then extracted with methylene chloride (2×50 ml). The combined extracts were dried over magnesium sulfate and concentrated in vacuo, yielding 4.84 g of crude residue. The residue was converted to the fumarate salt in 2-propanol, concentrated to a solid in vacuo and recrystallized from acetone with a trace of ethanol to yield 2.9 g (59.5%) of fine white crystals; m.p. 117°-123° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.03 mole, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-propylpiperazine dihydrobromide | 0.01 mole, 2.9 g | Br.Br.C(CC)N1CCNCC1
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-Propyl-4-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]piperazine fumarate | 2.9 g, 59.5% | C(\C=C\C(=O)O)(=O)O.C(CC)N1CCN(CC1)C(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C18H24F3N3O2.C4H4O4/c1-2-6-22-7-9-23(10-8-22)17(25)24-12-16(13-24)26-15-5-3-4-14(11-15)18(19,20)21;5-3(6)1-2-4(7)8/h3-5,11,16H,2,6-10,12-13H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
